US06797820B2
To a solution of mono-4-methyl 2-(R)-butylsuccinic acid, (prepared in three steps from hexanoylchloride and t-butyl bromoacetate as described below; 1 mmol) in DMF was added proline O-benzyl ester (1 mmol), DIEA (0.4 mL, 2.3 mmol), and a coupling reagent (e.g. EDCI, PyBOP, DIC, etc.; 1 mmol). The mixture was stirred overnight, then diluted with ethyl acetate and washed with aqueous HCl (1 N), water, saturated sodium bicarbonate, brine, and then dried (Na2SO4). The filtrate was concentrated and then purified on silica gel (Merck 60; ethyl acetate/hexane) to afford methyl-3-(R)-butyl-3-(2-(S)-benzyloxycarbonylpyrrolidin-1-ylcarbonyl)propionate. To this amide (0.1 mmol) in ethylacetate (10 mL) was added 10% Pd/C (100 mg) and the solution stirred under a hydrogen atmosphere for 8 h. The suspension was filtered through a Celite plug and then concentrated to afford methyl-3-(R)-butyl-3-(2-(S)-carboxypyrrolidin-1-ylcarbonyl)propionate E-2.

reactant | hexanoylchloride | C(CCCCC)(=O)Cl | C6H11ClO
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | proline O-benzyl ester | 1 mmol | C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O | C12H15NO2
reactant | DIEA | 2.3 mmol, 0.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl-3-(R)-butyl-3-(2-(S)-benzyloxycarbonylpyrrolidin-1-ylcarbonyl)propionate | COC(C[C@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)CCCC)=O | C21H29NO5
